US04093812
Add 9.4 ml of thionyl chloride to a suspension of 32.6 g of finely-ground 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehydeoxime in 250 ml of carbon tetrachloride at 60° to 65° C. Stir the resulting admixture for 1.5 hours at this temperature and for 2 hours under reflux. Separate the formed precipitate by vacuum filtration at room temperature. Wash the filter residue (precipitate) with carbon tetrachloride and dry to obtain a 96% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile [m.p. 190° to 192° C].

reactant | thionyl chloride | 9.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehydeoxime | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=NO)C1=CC=CC=C1 | C14H10N4O4
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile | 96% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C#N)C1=CC=CC=C1 | C14H8N4O3
